US08809267B2
Sulfamic acid 2,2,2-trifluoro-1,1-dimethyl-ethyl ester was synthesized according to the method presented in the synthesis of sulfamic acid phenyl ester in Example 1 with the exception of utilizing 1,1,1-trifluoro-2-methyl-propan-2-ol to obtain sulfamic acid 2,2,2-trifluoro-1,1-dimethyl-ethyl ester.

reactant | sulfamic acid phenyl ester | C1(=CC=CC=C1)OS(N)(=O)=O | C6H7NO3S
reactant | 1,1,1-trifluoro-2-methyl-propan-2-ol | FC(C(C)(O)C)(F)F | C4H7F3O
product | sulfamic acid 2,2,2-trifluoro-1,1-dimethyl-ethyl ester | FC(C(C)(C)OS(N)(=O)=O)(F)F | C4H8F3NO3S
